US05412137
A mixture of a solution of 5.5 gms of the N-heptylacetamide in 150 ml of diethyl ether and 3.99 gms of lithium aluminum hydride are stirred at room temperature for 18 hours. The reaction mixture is then worked up with H2O/NaOH by the Fieser method, following which the organic layer is dried over MgSO4, filtered, and concentrated under vacuum to give N-heptyl-N-ethylamine.

reactant | N-heptylacetamide | 5.5 gms | C(CCCCCC)NC(C)=O | C9H19NO
reactant | lithium aluminum hydride | 3.99 gms | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | H2O NaOH | O.[OH-].[Na+]
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | N-heptyl-N-ethylamine | C(CCCCCC)NCC | C9H21N
